US07943619B2
3-Furan-2-yl-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-[1,2,4]triazolo[4,3-b]pyridazine
To a solution of (5-methyl-3-phenyl-isoxazol-4-yl)-methanol (60 mg, 0.32 mmol) in DMF (2 mL) was added sodium hydride (55% dispersion in mineral oil, 15 mg, 0.35 mmol). The mixture was stirred at room temperature overnight. After addition of a solution of 6-chloro-3-(2-furanyl)-1,2,4-triazolo[4,3-b]pyridazine (77 mg, 0.35 mmol) in DMF (2 mL) the mixture was stirred at room temperature overnight. Then the mixture was evaporated, extracted (ethyl acetate/water) and the organic phase was dried with sodium sulfate and concentrated. Chromatography (SiO2, heptane:ethyl acetate=100:0 to 1:1) afforded the title compound (105 mg, 67%) as a white foam. MS: m/e=374.5 [M+H]+.

reactant | (5-methyl-3-phenyl-isoxazol-4-yl)-methanol | 0.32 mmol, 60 mg | CC1=C(C(=NO1)C1=CC=CC=C1)CO | C11H11NO2
reactant | sodium hydride | 0.35 mmol, 15 mg | [H-].[Na+]
reactant | 6-chloro-3-(2-furanyl)-1,2,4-triazolo[4,3-b]pyridazine | 0.35 mmol, 77 mg | ClC=1C=CC=2N(N1)C(=NN2)C=2OC=CC2 | C9H5ClN4O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 3-Furan-2-yl-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-[1,2,4]triazolo[4,3-b]pyridazine | 105 mg, 67% | O1C(=CC=C1)C1=NN=C2N1N=C(C=C2)OCC=2C(=NOC2C)C2=CC=CC=C2 | C20H15N5O3
